US09388161B2
A mixture of (S)-1-(6-bromo-2-methyl-5-(quinazolin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.025 g, 0.061 mmol), 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.017 g, 0.073 mmol), chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) (XPhos 2nd generation precatalyst) (2.4 mg, 0.003 mmol), and cesium carbonate (0.059 g, 0.182 mmol) in 1,4-dioxane (2.0 mL) and water (0.40 mL) was heated at 100° C. for 2 h. The reaction mixture was filtered through Celite and concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 25-100% ethyl acetate-hexane) to afford (S)-1-(6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-5-(quinazolin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.012 g, 45%) as a white solid. MS (ESI, pos. ion) m/z 440. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.81-0.91 (m, 5H), 1.07 (d, J=6.74 Hz, 3H), 1.47 (m, 1H), 2.03 (br dd, J=13.34, 6.89 Hz, 1H), 2.18 (s, 3H), 2.44 (m, 1H), 3.55-3.67 (m, 1H), 4.63 (m, 1H), 7.41 (br s, 1H), 7.51-7.70 (m, 3H), 7.72 (s, 1H), 7.91 (ddd, J=8.50, 7.04, 1.47 Hz, 1H), 8.06 (s, 1H), 8.10 (d, J=8.21 Hz, 1H), 9.54 (s, 1H). MS (ESI, pos. ion) m/z 440 [M+H]+.

reactant | (S)-1-(6-bromo-2-methyl-5-(quinazolin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.061 mmol, 0.025 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1=NC2=CC=CC=C2C=N1 | C20H18BrN3O2
reactant | 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.073 mmol, 0.017 g | C1(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
reactant | cesium carbonate | 0.182 mmol, 0.059 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.40 mL | O | H2O
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) | 0.003 mmol, 2.4 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
product | (S)-1-(6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-5-(quinazolin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.012 g, 45% | C1(CC1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1=NC2=CC=CC=C2C=N1 | C26H25N5O2
